US08541411B2
Preparation of 2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole-4-carboxamide
To a solution of 2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole-4-carboxylic acid, prepared as described in Example 20 (100 mg) in DCM (20 mL) was added a drop of DMF. The solution was then cooled to 0° C. and then Oxalyl chloride (64 mg) was then added. The mixture was stirred at room temperature for 30 min. The solvent was removed in-vacuo to afford a white solid that used directly in the next step. To the solid dissolved in dry DCM (20 mL) was bubbled in NH3 at 0° C. for 5 min. The mixture was then concentrated in-vacuo to afford the desired product as a white solid (79 mg, 79%). 1H NMR (300 MHz, DMSO-d6): δ ppm 2.47 (s, 3H), 3.05 (t, 4H, J=4.5 Hz), 3.69 (t, 4H, J=4.5 Hz), 6.05 (s, 2H), 6.35 (d, 1H, J=7.5 Hz), 7.23 (s, 1H), 7.34 (t, 1H, J=7.5 Hz), 7.53 (s, 1H), 7.60-7.74 (m, 3H), 7.86 (d, 1H, J=7.5 Hz), 8.01 (d, 1H, J=9.0 Hz), 8.24 (d, 1H, J=9.0 Hz), 9.22 (s, 1H); LC-MS: m/e=401 [M+1]+.

reactant | 2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole-4-carboxylic acid | CC1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C=C2C(=O)O)N2CCOCC2 | C24H23N3O3
reactant | DMF | CN(C)C=O | C3H7NO
reactant | Oxalyl chloride | 64 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole-4-carboxamide | 79 mg, 79% | CC1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C=C2C(=O)N)N2CCOCC2 | C24H24N4O2
